US05264577
Step A: Preparation of Ethyl α-nitro-9H-xanthene-9-acetate
9-Hydroxyxanthene (9.9 g, 50 mmol) and ethyl nitroacetate (6.1 mL, 55 mol) are mixed and heated at 100° C. (oil bath) for 1.5 hours. After cooling, a waxy mixture is suspended in 40 mL of absolute alcohol and 40 mL of 1.25 M of ethanolic potassium hydroxide solution is added. The solution is stirred for 45 minutes at room temperature and ethanol is stripped off. The remaining solid is suspended in water and extracted with diethyl ether. The aqueous portion is acidified with 85% phosphoric acid to pH 2 to 3 to give a white suspension which is cooled overnight. The precipitate is collected by filtration and dried in a vacuum oven at 50° C. This gives 9.18 g of the title compound as a white solid; mp 89°-91° C.

reactant | 9-Hydroxyxanthene | 50 mmol, 9.9 g | OC1C2=CC=CC=C2OC=2C=CC=CC12 | C13H10O2
reactant | ethyl nitroacetate | 55 mol, 6.1 mL | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | potassium hydroxide | 1.25 M, 40 mL | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Ethyl α-nitro-9H-xanthene-9-acetate | [N+](=O)([O-])C(C(=O)OCC)C1C2=CC=CC=C2OC=2C=CC=CC12 | C17H15NO5
